US05128356
2-Butyl-1-(2'-cyanobiphenyl-4-yl)methyl-7-hydroxymethylbenzimidazole
To a solution of methyl 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate (10 g) and NaBH. (2.2 g) in tetrahydrofuran (100 ml) was added dropwise methanol (19 ml) during 80 minutes. The mixture was heated for 27 further hours under reflux, and the reaction mixture was concentrated to dryness. To the concentrate was added water, which was neutralized with conc. HCl. Crystals thus separated were collected by filtration. Recrystallization from methanol afforded colorless needles (8.8 g, 93%), m.p. 203°-204° C.

reactant | methyl 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate | 10 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)C(=O)OC | C27H25N3O2
reactant | methanol | 19 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Butyl-1-(2'-cyanobiphenyl-4-yl)methyl-7-hydroxymethylbenzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)CO | C26H25N3O
